US07700637B2
Oxalyl chloride (1.179 g, 9.29 mmol) is added to a suspension of 4-chlorosulfonyl-benzoic acid (1.025 g, 4.64 mmol) in 10 mL of DCM at RT. A drop of DMF is added. Stirring is continued for 2.5 days. A pale yellow solution results. The reaction mixture is concentrated under vacuum. Toluene is added and the mixture is concentrated under vacuum again. This last process is repeated twice more, and the mixture is finally dried under vacuum to give 4-chlorosulfonyl-benzoyl chloride as a pale yellow solid.

reactant | Oxalyl chloride | 9.29 mmol, 1.179 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chlorosulfonyl-benzoic acid | 4.64 mmol, 1.025 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-chlorosulfonyl-benzoyl chloride | ClS(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O3S
